US05703098
A stirred mixture of 3-cyclopentyloxy-4-methoxybenzaldehyde (54.9 grams, 249 mmol) and ammonium acetate (58.2 grams, 748 mmol) in ethanol (200 mL, 95%) was heated to 45° C. To the yellowish suspension, was added malonic acid (25.9 grams, 249 mmol) as a solid. The mixture was refluxed for 16 h. The mixture was cooled to room temperature. The suspension was filtered and the solid was washed with cold ethanol (200 mL) until the color was removed. The white solid was dried in a vacuum oven (45° C., 1 torr) to afford 3-amino-3-(3'-cyclopentoxy-4'-methoxyphenyl)propionic acid as white solid (41.97 grams, 61% yield): mp, 234.0°-235.0° C.; 1H NMR (CDCl3)δ1.62-1.98 (m, 8H, C5H8), 2.53 (d, J=7 Hz, 2H, CH2), 3.80 (s, 3H, CH3), 4.21 (t, J=7 Hz, 1H, OCH), 4.84-4.86 (m, 1H, NCH), 6.96-7.03 (m, 3H, Ar); 13C NMR (CDCl3)δ26.33, 34.97, 49.78, 55.32, 58.48, 83.99, 114.99, 116.04, 121.63, 140.63, 149.12, 150.75, 182.87; Anal Calcd for C15 H21NO4 : C, 64.50; H, 7.58; N, 5.01. Found: C, 64.54; H, 7.68; N, 4.93.

reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 249 mmol, 54.9 grams | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | ammonium acetate | 748 mmol, 58.2 grams | C(C)(=O)[O-].[NH4+]
reactant | malonic acid | 249 mmol, 25.9 grams | C(CC(=O)O)(=O)O | C3H4O4
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 3-amino-3-(3'-cyclopentoxy-4'-methoxyphenyl)propionic acid | 41.97 grams, 61% yield | NC(CC(=O)O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C15H21NO4
